US05981533
60 g (0.47 mol) of 3-chloro-aniline are dissolved in 255 ml (0.56 mol) of a 2.2N solution of HCl in methanol. Concentration and stirring of the residue in diethyl ether, followed by filtering and drying, yield 3-chloro-aniline hydrochloride.

reactant | 3-chloro-aniline | 0.47 mol, 60 g | ClC=1C=C(N)C=CC1 | C6H6ClN
solvent | HCl | Cl | ClH
solvent | methanol | CO | CH4O
product | 3-chloro-aniline hydrochloride | Cl.ClC=1C=C(N)C=CC1 | InChI=1S/C6H6ClN.ClH/c7-5-2-1-3-6(8)4-5;/h1-4H,8H2;1H
